Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Ms. ___ is a ___ female with history of
cholecystectomy in ___, GERD, who presents with nausea and
vomiting and MRCP on ___ with evidence of choledocholithiasis. 


Patient underwent laparoscopic removal of gallbladder in ___ 
of
this year. She endorses inability to tolerate solid foods since
___. She endorses eating dinner that evening and has had
nonbloody emesis since then following any foods. She has been
able to tolerate liquids without vomiting. Denied any abdominal
pain or fevers/chills. Has been evaluated several times since
then and was found to have elevated LFTs. Given this, underwent
MRCP yesterday with evidence of 8mm calculus in distal CBD. She
was called and told to present to ED for further evaluation. 

In the ED: 
- She was afebrile, hemodynamically stable, satting ___ on RA.
- Her last BM was "small" this morning without blood, she is
passing gas. 
- Labs remarkable for normal CBC, elevated ALT 120 and AST 150,
AlkPhos 307, Tbili 1.0. 
- ERCP recommended admission to ___ with plans for ERCP. 

- Patient subsequently was taken for ERCP which was successful,
with sphincterotomy and extraction of stone, and placement
plastic stent. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Depression, on Prozac
Vitamin D deficiency
GERD
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization. 
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Pleasant woman in hospital bed, in no apparent 
distress.
Moderately hard of hearing. Daughter at bedside.
EYES: PERRL. EOMI. Anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Posterior oropharynx without erythema or exudate, uvula midline.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD.
PULM: Breathing comfortably on room air. Lungs clear to
auscultation. No wheezes or crackles. Good air movement
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. 
GU: No suprapubic fullness or tenderness to palpation.
EXTR: No lower extremity edema. Distal extremity pulses palpable
throughout.
SKIN: No rashes, ulcerations, scars noted.
NEURO: Alert. Oriented to person/place/time/situation. Face
symmetric. Gaze conjugate with EOMI. Speech fluent. Moves all
limbs spontaneously. No tremors, asterixis, or other involuntary
movements observed. 
PSYCH: Pleasant, cooperative. Follows commands, answer questions
appropriately. Appropriate affect.

DISCHARGE EXAM:
VS: ___ 0725 Temp: 98.0 PO BP: 118/75 HR: 55 RR: 18 O2 sat:
94% O2 delivery: RA 
___ 0758 Dyspnea: 0 RASS: 0 Pain Score: ___  
GENERAL: Pleasant woman in hospital bed, in no apparent 
distress.
Moderately hard of hearing. Daughter at bedside.
EYES: PERRL. EOMI. Anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Posterior oropharynx without erythema or exudate, uvula midline.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. No
murmur. No JVD.
PULM: Breathing comfortably on room air. Lungs clear to
auscultation. No wheezes or crackles. Good air movement
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender
to palpation. 
GU: No suprapubic fullness or tenderness to palpation.
EXTR: No lower extremity edema. Distal extremity pulses palpable
throughout.
SKIN: No rashes, ulcerations, scars noted.
NEURO: Alert. Oriented to person/place/time/situation. Face
symmetric. Gaze conjugate with EOMI. Speech fluent. Moves all
limbs spontaneously. No tremors, asterixis, or other involuntary
movements observed. 
PSYCH: Pleasant, cooperative. Follows commands, answer questions
appropriately. Appropriate affect. 
 
Pertinent Results:
ADMISSION LABS
--------------
___ 11:34AM BLOOD WBC-4.8 RBC-4.88 Hgb-14.7 Hct-44.8 MCV-92 
MCH-30.1 MCHC-32.8 RDW-13.5 RDWSD-45.9 Plt ___
___ 11:34AM BLOOD Neuts-57.6 ___ Monos-7.3 Eos-1.9 
Baso-1.0 Im ___ AbsNeut-2.75 AbsLymp-1.52 AbsMono-0.35 
AbsEos-0.09 AbsBaso-0.05
___ 11:34AM BLOOD ___ PTT-29.2 ___
___ 11:34AM BLOOD Glucose-94 UreaN-9 Creat-0.7 Na-135 
K-8.2* Cl-100 HCO3-21* AnGap-14
___ 11:34AM BLOOD ALT-120* AST-150* AlkPhos-307* 
TotBili-1.0
___ 11:34AM BLOOD Albumin-3.8

IMAGING
-------
MRCP
1. Choledocholithiasis, largest calculus 8 mm distal CBD, with
resultant obstruction is consistent with patient's clinical
presentation.
2. Atrophy of hepatic segment 2 with biliary ductal dilatation
and altered perfusion. Although no discrete mass is identified 
on
the MRI, focal biliary ductal stricture/mass cannot be excluded.
Evaluation during EUS may be considered.
3. Multiseptate pancreatic lesion within uncinate process, 
likely
sidebranch IPMN. No enhancing mural nodule, but given the size 
of
the lesion fluid sampling with US recommended.

ERCP ___:
Successful ERCP with sphincterotomy and extraction of stone

DISCHARGE LABS
--------------
___ 05:56AM BLOOD WBC-5.3 RBC-4.56 Hgb-13.6 Hct-42.2 MCV-93 
MCH-29.8 MCHC-32.2 RDW-13.2 RDWSD-44.7 Plt ___
___ 05:56AM BLOOD Glucose-79 UreaN-11 Creat-0.7 Na-142 
K-5.1 Cl-102 HCO3-27 AnGap-13
___ 05:56AM BLOOD ALT-98* AST-81* AlkPhos-273* TotBili-0.___ female with history of cholecystectomy in ___, 
GERD, who presents with nausea and vomiting and MRCP on ___ 
with evidence of choledocholithiasis, admitted for ERCP which 
she underwent on ___ with sphincterotomy and stone extraction, 
and placement on plastic stent. Doing well after procedure.

ACUTE/ACTIVE PROBLEMS:
# Choledocholithiasis, noted on MRCP ___ at OSH, s/p ERCP 
___ with sphincterotomy and stone extraction.  Patient 
presented with nausea and vomiting, which improved after the 
procedure.  She advanced her diet after the procedure without 
problem, and transaminases decreased.  She will need a repeat 
ERCP in two weeks to remove her stent, which will be scheduled 
by the ERCP team.

# Depression: continued home fluoxetine

# Vitamin D deficiency: continue home vitamin D

# GERD: continued home omeprazole

TRANSITIONS OF CARE
-------------------
# Follow-up: She will need a repeat ERCP in two weeks to remove 
her stent, which will be scheduled by the ERCP team.  She will 
follow up with her PCP within one week as well.

# Contacts/HCP: ___ (daughter, physician at 
___), ___ 
# Code Status: Full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. FLUoxetine 40 mg PO DAILY 
3. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  FLUoxetine 40 mg PO DAILY  
3.  Omeprazole 40 mg PO DAILY  
4.  Vitamin D 800 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with abdominal pain.  
Further testing with an ERCP showed a stone in your bile duct, 
which was removed.  A stent was placed to allow bile to flow.  
You are now being discharged.  You will need a repeat ERCP to 
take the stent out in two weeks.  You will be called at home to 
schedule this procedure.

You should avoid taking any aspirin, NSAIDs (ibuprofen, 
naproxen), warfarin or clopidogrel until ___.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___